US07544685B2
A mixture of 5-(pyridin-4-yl)-1H-indole (2.6 g, 0.13 mol), 1,4-dioxane (250 mL), tetrahydrofuran (20 mL) and methanol (10 mL) was heated to reflux temperature, and (S)-3-(2-bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide (3.9 g, 0.015 mol) was added. The resulting mixture was boiled under reflux for 96 h. The mixture was cooled, and the liquid decanted off. The residue was washed with ethyl acetate and then dissolved in methanol (500 mL) under heating. The organic phase was concentrated in vacuo to give 1-[2-((S)-1-carbamoyl-2,3-dihydro-1H-indol-3-yl)ethyl]-4-(1H-indol-5-yl)pyridinium bromide (5.7 g, 75%). This compound was suspended in methanol (130 mL), and sodium borohydride (1.48 g, 0.039 mol) was added over a period of 10 min at 12-20° C. The resulting mixture is stirred at 10° C. for 30 min and then poured onto a mixture of brine (500 mL) and 28% aqueous sodium hydroxide (50 mL). The aqueous phase was extracted with ethyl acetate, and the combined organic phase was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate/ethanol/triethylamine 85:10:5) to give crude title compound (3.5 g). Starting from 0.7 g of crude compound, the hydrochloric acid salt was prepared (0.63 g). Assignment of the optical rotation was done in dimethyl sulfoxide.

reactant | 5-(pyridin-4-yl)-1H-indole | 0.13 mol, 2.6 g | N1=CC=C(C=C1)C=1C=C2C=CNC2=CC1 | C13H10N2
reactant | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | (S)-3-(2-bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide | 0.015 mol, 3.9 g | BrCC[C@@H]1CN(C2=CC=CC=C12)C(=O)N | C11H13BrN2O
solvent | methanol | 10 mL | CO | CH4O
product | 1-[2-((S)-1-carbamoyl-2,3-dihydro-1H-indol-3-yl)ethyl]-4-(1H-indol-5-yl)pyridinium bromide | 5.7 g, 75% | [Br-].C(N)(=O)N1C[C@H](C2=CC=CC=C12)CC[N+]1=CC=C(C=C1)C=1C=C2C=CNC2=CC1 | InChI=1S/C24H22N4O.BrH/c25-24(29)28-16-20(21-3-1-2-4-23(21)28)10-14-27-12-8-17(9-13-27)18-5-6-22-19(15-18)7-11-26-22;/h1-9,11-13,15,20H,10,14,16H2,(H2,25,29);1H/t20-;/m1./s1
